US06969710B2
Benzenesulfonyl chloride (0.088 g, 0.50 mmol) was added to a solution of 2-amino-5-(4-t-butyloxycarbonyl-homopiperazin-1-yl)aniline (0.153 g, 0.50 mmol) and pyridine (514 mL, 6.39 mmol) in DCM. After 1 h at r.t. the mixture was washed with NaHCO3 (10%) dried (MgSO4) and the solvent was removed. Purification by column chromatography (CH2Cl2/MeOH/heptane, 4:1:15) gave a mixture of N-{2-amino-4-[4-t-butyloxycarbonyl-homopiperazin-1-yl-]phenyl}benzenesulfonamide and of the bis-sulphonylated N-{4-[4-t-butyloxycarbonyl]homopiperazinyl)-2-[(phenylsulfonyl)amino]phenyl}benzenesulfonamide (0.150 g, 86%). Boc-deprotection was achieved by dissolving the mixture in MeOH and adding HCl/ether. The mixture was let at r.t. for 0.5 h. Purification by preparative HPLC gave N-{4-(homopiperazinyl)-2-[(phenylsulfonyl)amino]phenyl}benzenesulfonamide hydrochloride; Anal. (C23H27ClN4O4S2) C, H, N, S ; M+ 487.4 Calcd 486.14. And N-{4-(homopiperazinyl)-2-[(phenylsulfonyl)amino]phenyl}benzenesulfonamide hydrochloride; Anal. (C17H23ClN4O2S) C, H, N, S ; M+ 347.5 Calcd 346.15.

reactant | Benzenesulfonyl chloride | 0.50 mmol, 0.088 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2-amino-5-(4-t-butyloxycarbonyl-homopiperazin-1-yl)aniline | 0.50 mmol, 0.153 g | NC1=C(N)C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H26N4O2
reactant | pyridine | 6.39 mmol, 514 mL | N1=CC=CC=C1 | C5H5N
reactant | N-{2-amino-4-[4-t-butyloxycarbonyl-homopiperazin-1-yl-]phenyl}benzenesulfonamide | NC1=C(C=CC(=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | HCl ether | Cl.CCOCC
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-{4-(homopiperazinyl)-2-[(phenylsulfonyl)amino]phenyl}benzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C23H26N4O4S2.ClH/c28-32(29,20-8-3-1-4-9-20)25-22-13-12-19(27-16-7-14-24-15-17-27)18-23(22)26-33(30,31)21-10-5-2-6-11-21;/h1-6,8-13,18,24-26H,7,14-17H2;1H
